US07157604B2
A partial solution of 7-amino-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one (0.940 g, 2.44 mmol) in CH2Cl2 (7.5 mL) was cooled in an ice bath and treated successively with pyridine (0.202 mL, 2.5 mmol) and acetyl chloride (0.178 mL, 2.5 mmol). The reaction mixture was placed under a N2 atmosphere and stirred at room temperature. Additional pyridine (0.01 mL, 0.12 mmol and 0.039 mL, 0.48 mmol) was added after 4 and 5 hours, respectively; and additional acetyl chloride (0.009 mL, 0.12 mmol; 0.035 mL, 0.49 mmol; and 0.175 mL, 2.45 mmol) was added after 4, 5, and 5.5 hours, respectively. After stirring overnight at room temperature, the mixture was treated with EtOH (10 mL) and 5N NaOH (ca. 1 mL), stirred briefly, and then partitioned between EtOAc and water. The organic phase was washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to provide 7-(acetylamino)-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one (1.02 g, 98%) as an orange solid.

reactant | 7-amino-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 2.44 mmol, 0.940 g | NC1=C(C=C2C3=C(C(CCC3(CC2=C1Cl)CCCC)=O)Br)F | C17H18BrClFNO
reactant | pyridine | 2.5 mmol, 0.202 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 2.5 mmol, 0.178 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | 5N, ca. 1 mL | [OH-].[Na+]
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 0.12 mmol, 0.01 mL | N1=CC=CC=C1 | C5H5N
catalyst | acetyl chloride | 0.12 mmol, 0.009 mL | C(C)(=O)Cl | C2H3ClO
solvent | EtOH | 10 mL | CCO | C2H6O
product | 7-(acetylamino)-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 1.02 g, 98% | C(C)(=O)NC1=C(C=C2C3=C(C(CCC3(CC2=C1Cl)CCCC)=O)Br)F | C19H20BrClFNO2
